US08871756B2
(1,1-Dioxidothietane-3,3-diyl)dimethanamine
A solution of 3,3-bis-azidomethyl-thietane 1,1-dioxide (1.0 g, 4.63 mmol) in methanol (10 mL) was stirred in the presence of 10% palladium on carbon (0.2 g) under hydrogen atmosphere overnight. The resulting reaction mixture was filtered and the filtrate was concentrated in vacuo to afford 720 mg of the desired product.

reactant | 3,3-bis-azidomethyl-thietane 1,1-dioxide | 4.63 mmol, 1.0 g | N(=[N+]=[N-])CC1(CS(C1)(=O)=O)CN=[N+]=[N-] | C5H8N6O2S
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | (1,1-Dioxidothietane-3,3-diyl)dimethanamine | 720 mg | O=S1(CC(C1)(CN)CN)=O | C5H12N2O2S
